US08664220B2
Step 1: 3-Bromo-5-(2,5-difluoro-phenyl)-pyridine
Prepared according to the procedure described in Example 48, Step 2, using 3,5-dibromo-pyridine and 2,5-difluorophenylboronic acid.

reactant | 3,5-dibromo-pyridine | BrC=1C=NC=C(C1)Br | C5H3Br2N
reactant | 2,5-difluorophenylboronic acid | FC1=C(C=C(C=C1)F)B(O)O | C6H5BF2O2
product | 3-Bromo-5-(2,5-difluoro-phenyl)-pyridine | BrC=1C=NC=C(C1)C1=C(C=CC(=C1)F)F | C11H6BrF2N
